US07754728B2
9-Benzyl-8-hydroxy-2-methoxycarbonylmethoxyadenine
After sodium (0.30 g, 13.04 mmol) was dissolved in methanol (30 ml), thereto was added 9-benzyl-8-bromo-2-methoxycarbonylmethoxyadenine (0.10 g, 0.25 mmol) obtained by Reference example 21, and the mixture was refluxed for 7 hours under stirring. After being allowed to cool, the solution was neutralized with concentrated hydrochloric acid and concentrated. After the residue was dissolved in methanol (30 ml), thereto was added sulfuric acid (2 ml) and the solution was stirred for 7 hours. After being neutralized in an ice bath with saturated sodium hydrogencarbonate solution, the solution was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (SiO2 20 g, eluting solvent: CHCl3/MeOH=100/1˜30/1) and the obtained compound was washed with methanol to give the captioned compound (62 mg, 0.19 mmol) as a white solid.

reactant | sodium | 13.04 mmol, 0.30 g | [Na] | Na
reactant | 9-benzyl-8-bromo-2-methoxycarbonylmethoxyadenine | 0.25 mmol, 0.10 g | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1Br)N)OCC(=O)OC | C15H14BrN5O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
product | 9-Benzyl-8-hydroxy-2-methoxycarbonylmethoxyadenine | 0.19 mmol, 62 mg | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1O)N)OCC(=O)OC | C15H15N5O4
